US06372752B1
Synthesis of 1-[1-(1H-Indole-5-carbonyl)-4-phenyl-piperidin-4-yl]-butan-1-one (compound 4)
Indole-5-carboxylic acid (177 mg, 1.1 mmole) and 4-butyryl-4-phenylpiperidine (231 mg, 1.0 mmole) were dissolved in 10 ml dichloromethane. To this solution was added catalytic DMAP and EDCI (330 mg, 1.1 mmole). The resulting solution was then stirred at room temperature overnight. The reaction was worked up by washing sequentially with 1N HCl, saturated sodium bicarbonate, and saturated sodium chloride. The compound was then purified by flash chromatography on silica gel (40:1 CHCl3/MeOH). 1H NMR (300 Mhz, CDCl3) δ 8.60 (s, 1H), 7.66 (d, 1H), 7.38-7.18 (m, 8H), 6.53 (d, 1H), 4.28 (bs, 1H), 3.67 (bs, 1H), 3.39 (t, 2H), 2.42 (bs, 2H), 2.18 (m, 3H), 1.88 (bs, 1H), 1.41 (m, 2H), 0.66 (t, 3H).

reactant | Indole-5-carboxylic acid | 1.1 mmole, 177 mg | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | 4-butyryl-4-phenylpiperidine | 1.0 mmole, 231 mg | C(CCC)(=O)C1(CCNCC1)C1=CC=CC=C1 | C15H21NO
reactant | EDCI | 1.1 mmole, 330 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[1-(1H-Indole-5-carbonyl)-4-phenyl-piperidin-4-yl]-butan-1-one | N1C=CC2=CC(=CC=C12)C(=O)N1CCC(CC1)(C1=CC=CC=C1)C(CCC)=O | C24H26N2O2
